US08609680B2
To a stirred mixture of 2-iodo-6-methylpyridin-3-ol (530 g, 2.25 mol), Cs2CO3 (876 g, 2.7 mol) and DMF (2.5 L) was added 2-bromo-ethanol (560 g, 4.51 mol) dropwise at 0° C. The mixture was stirred at 90° C. overnight. The reaction was cooled and the solvent was removed in vacuo. The residue was diluted with water (2 L) and the aqueous solution was extracted with CH2Cl2 (3×350 mL). The combined organic layers were washed with brine (2×150 mL), dried over anhydrous Na2SO4 and concentrated to afford 2-(2-iodo-6-methylpyridin-3-yloxy)ethanol (630 g) as a brown solid which was used directly in the next step without further purification.

reactant | 2-iodo-6-methylpyridin-3-ol | 2.25 mol, 530 g | IC1=NC(=CC=C1O)C | C6H6INO
reactant | Cs2CO3 | 2.7 mol, 876 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-ethanol | 4.51 mol, 560 g | BrCCO | C2H5BrO
solvent | DMF | 2.5 L | CN(C)C=O | C3H7NO
product | 2-(2-iodo-6-methylpyridin-3-yloxy)ethanol | 630 g | IC1=NC(=CC=C1OCCO)C | C8H10INO2
